US08110687B2
To a solution of tert-butyl [3-[({7-[(2-formylpyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate (120 mg, 0.21 mmol) in MeOH (2 mL), was added potassium carbonate (116 mg, 0.84 mmol) and 1-[(isocyanomethyl)sulfonyl]-4-methylbenzene (45.2 mg, 0.23 mmol). The reaction mixture was heated at 70° C. for 30 min. and then allowed to cool to rt and the solvents were evaporated. The residue was dissolved in DCM, washed with water and brine, dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give tert-butyl [3-{[(7-{[2-(1,3-oxazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate (95.0 mg, 74.1%). LCMS: (FA) ES+ 609.3, ES− 607.4.

reactant | tert-butyl [3-[({7-[(2-formylpyridin-4-yl)oxy]-1,2,3,4-tetrahydronaphthalen-2-yl}carbonyl)amino]-5-(trifluoromethyl)benzyl]carbamate | 0.21 mmol, 120 mg | C(=O)C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C30H30F3N3O5
reactant | potassium carbonate | 0.84 mmol, 116 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[(isocyanomethyl)sulfonyl]-4-methylbenzene | 0.23 mmol, 45.2 mg | [N+](#[C-])CS(=O)(=O)C1=CC=C(C=C1)C | C9H9NO2S
solvent | MeOH | 2 mL | CO | CH4O
product | tert-butyl [3-{[(7-{[2-(1,3-oxazol-5-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalen-2-yl)carbonyl]amino}-5-(trifluoromethyl)benzyl]carbamate | 95.0 mg, 74.1% | O1C=NC=C1C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)NC=1C=C(CNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C32H31F3N4O5
